US08440689B2
tert-Butyl (1S,2R)-2-(7-chloro-3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate
A vial was charged with tert-butyl (1S,2R)-2-(3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate (63 mg, 0.140 mmol) and N-chlorosuccinimide (18.63 mg, 0.140 mmol) in DCM (1.4 mL) to give a yellow solution. The solution was stirred for 1 h at RT. The crude reaction mixture was diluted with DCM (20 mL) and washed with saturated aq NaHCO3 (2×10 mL) followed by water (10 mL) and brine (10 mL). The organic layers were combined, dried over sodium sulfate, and concentrated to a residue which was purified by flash column chromatography. The collected fractions were concentrated to a brown residue to give the title compound as a cream colored solid upon drying (38.1 mg, 56%). [M+H] calc'd for C25H32ClN5O3, 486. found, 486.

reactant | tert-butyl (1S,2R)-2-(3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 0.140 mmol, 63 mg | O=C1NCC2=C1C(=NC(=C2)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O)NC=2C=C(C=CC2)C | C25H33N5O3
reactant | N-chlorosuccinimide | 0.140 mmol, 18.63 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DCM | 1.4 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl (1S,2R)-2-(7-chloro-3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | ClC=1C2=C(C(=NC1N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC=1C=C(C=CC1)C)C(NC2)=O | C25H32ClN5O3
